US07163947B2
A solution of tert-butyl {3-[(2-ethoxymethyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)amino]propyl}carbamate (1.39 g, 3.35 mmol) in 35 mL of CHCl3 was treated with 15 mL of concentrated NH4OH solution and p-toluenesulfonyl chloride (0.67 g, 3.51 mmol). After 15 min, the reaction mixture was diluted with water and CHCl3 and the phases were separated. The organic portion was washed with 10% Na2CO3 solution and water. The combined aqueous washes were back-extracted with CHCl3. The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield tert-butyl {3-[(4-amino-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)amino]propyl}carbamate (1.30 g) as an orange foam.

reactant | tert-butyl {3-[(2-ethoxymethyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)amino]propyl}carbamate | 3.35 mmol, 1.39 g | C(C)OCC=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)NCCCNC(OC(C)(C)C)=O | C21H29N5O4
reactant | NH4OH | 15 mL | [NH4+].[OH-]
reactant | p-toluenesulfonyl chloride | 3.51 mmol, 0.67 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CHCl3 | 35 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | tert-butyl {3-[(4-amino-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)amino]propyl}carbamate | 1.30 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2NCCCNC(OC(C)(C)C)=O)COCC | C21H30N6O3
